US04291034
A solution of 1.4 g of N,N-dimethyl-1,3-propanediamine in 10 ml of ethanol is added dropwise to a stirred, cooled mixture of 4.1 g of 7-chloro-3-(3,4-dichlorophenyl)-3,4-dihydro-10-hydroxy-1,9(2H,10H)acridinedione in 100 ml of ethanol. The mixture is stirred at room temperature overnight and evaporated to dryness in vacuo. The residue is recrystallized from ethanol to give 7-chloro-3-(3,4-dichlorophenyl)1-[[3-(dimethylamino)propyl]imino]-1,3,4,10-tetrahydro-10-hydroxy-9(2H)acridinone; mp 208°-210° C.

reactant | N,N-dimethyl-1,3-propanediamine | 1.4 g | CN(CCCN)C | C5H14N2
reactant | 7-chloro-3-(3,4-dichlorophenyl)-3,4-dihydro-10-hydroxy-1,9(2H,10H)acridinedione | 4.1 g | ClC1=CC=C2N(C=3CC(CC(C3C(C2=C1)=O)=O)C1=CC(=C(C=C1)Cl)Cl)O | C19H12Cl3NO3
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 7-chloro-3-(3,4-dichlorophenyl)1-[[3-(dimethylamino)propyl]imino]-1,3,4,10-tetrahydro-10-hydroxy-9(2H)acridinone | ClC1=CC=C2N(C=3CC(CC(C3C(C2=C1)=O)=NCCCN(C)C)C1=CC(=C(C=C1)Cl)Cl)O | C24H24Cl3N3O2
